US09212190B2
To a solution of 2-[(tert-butyldimethylsilyl)oxy]-3-[(3R)-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]propanenitrile (150 mg, 0.38 mmol, 1.00 equiv) in NMP (1 mL) was added triethylamine (310 mg, 3.06 mmol, 8.00 equiv) and 4-(morpholin-4-yl)cyclohexan-1-amine (560 mg, 3.04 mmol, 8.00 equiv) at room temperature. The resulting solution was stirred overnight at 75° C. under nitrogen. After cooling to room temperature, the resulting solution was diluted with DCM (30 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (20:1) to give 185 mg (90%) of 2-[(tert-butyldimethylsilyl)oxy]-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2 (6),8,10-tetraen-3-yl]propanenitrile as a white solid. MS: m/z 542 (M+H)+.

reactant | 2-[(tert-butyldimethylsilyl)oxy]-3-[(3R)-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]propanenitrile | 0.38 mmol, 150 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC(C#N)C[C@@H]1C=2C3=C(N=CN=C3SC2CC1)Cl | C18H24ClN3OSSi
reactant | triethylamine | 3.06 mmol, 310 mg, 8.00 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-(morpholin-4-yl)cyclohexan-1-amine | 3.04 mmol, 560 mg, 8.00 equiv | N1(CCOCC1)C1CCC(CC1)N | C10H20N2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-[(tert-butyldimethylsilyl)oxy]-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2 (6),8,10-tetraen-3-yl]propanenitrile | 185 mg, 90% | [Si](C)(C)(C(C)(C)C)OC(C#N)C[C@@H]1C=2C3=C(N=CN=C3SC2CC1)NC1CCC(CC1)N1CCOCC1 | C28H43N5O2SSi
